US08252933B2
5-Chloro-N-ethyl-4-hydroxy-1-methyl-2-oxo-N-phenyl-1,2-dihydroquinoline-3-carboxamide:
N-ethylbenzenamine (430 mg, 3.55 mmol, 2.00 equiv) was added dropwise to ethyl 5-chloro-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxylate (500 mg, 1.78 mmol, 1.00 equiv) dissolved in heptane (10 ml). The resulting mixture was heated about 100° C. and the volatiles were removed by distillation over a period of about 7 hours. After cooling to ambient temperature, the resulting crystals were collected by filtration, washed with heptane, and purified by silica gel chromatography (ethyl acetate/petroleum ether 1:3) to afford the title product as a white solid (0.38 g, yield: 60%).

reactant | N-ethylbenzenamine | 3.55 mmol, 430 mg, 2.00 equiv | C(C)NC1=CC=CC=C1 | C8H11N
reactant | ethyl 5-chloro-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxylate | 1.78 mmol, 500 mg, 1.00 equiv | ClC1=C2C(=C(C(N(C2=CC=C1)C)=O)C(=O)OCC)O | C13H12ClNO4
solvent | heptane | 10 ml | CCCCCCC | C7H16
product | 5-Chloro-N-ethyl-4-hydroxy-1-methyl-2-oxo-N-phenyl-1,2-dihydroquinoline-3-carboxamide | 0.38 g, yield: 60% | ClC1=C2C(=C(C(N(C2=CC=C1)C)=O)C(=O)N(C1=CC=CC=C1)CC)O | C19H17ClN2O3
